US05393751
A mixed solution of 2-mercaptoethanol (25.0 g) and pyridinium p-toluenesulfonate (8.04 g) in dichloromethane (400 ml) was cooled with ice and 3,4-dihydro-2H-pyran (70 g) was gradually added. The mixture was stirred at room temperature for 3 hours. Then, 3,4-dihydro-2H-pyran (10.8 g) was further added and the mixture was stirred for an additional 3 hours. To this reaction mixture was added ether (1 l) and the organic layer was washed with aqueous sodium chloride solution and dried over anhydrous sodium sulfate and the solvent was distilled off under reduced pressure. The procedure gave 78.8 g of tetrahydropyran-2-yl 2-[(tetrahydropyran-2-yl)thio]ethyl ether as a colorless oil.

reactant | 2-mercaptoethanol | 25.0 g | SCCO | C2H6OS
reactant | pyridinium p-toluenesulfonate | 8.04 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | 3,4-dihydro-2H-pyran | 70 g | O1CCCC=C1 | C5H8O
reactant | 3,4-dihydro-2H-pyran | 10.8 g | O1CCCC=C1 | C5H8O
reactant | ether | 1 l | CCOCC | C4H10O
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | tetrahydropyran-2-yl 2-[(tetrahydropyran-2-yl)thio]ethyl ether | 78.8 g | O1C(CCCC1)SCCOC1OCCCC1 | C12H22O3S
